US04908367
A mixture of 3.96 g of 4-amino-1H-indole, 75 ml of tetrahydrofuran, 5.16 g of 5-chloro-salicyclic acid and 6.2 g of dicyclohexylcarbodiimide was refluxed for 2 hours and after the addition of another 0.62 g of dicyclohexylcarbodiimide, the mixture was refluxed for one hour, cooled and was filtered. The filtrate was evaporated to dryness under reduced pressure at 50° C. and the residue was taken up in ethyl acetate. The solution was washed with 2N hydrochloric acid, dried and evaporated to dryness under reduced pressure at 50° C. The residue was chromatographed over silica and was eluted with a 9-1 mixture of chloroform-ethyl acetate to obtain 3.9 g of 5-chloro-3-hydroxy-N-(1H-indol-4-yl)-benzamide melting at 248° C.

reactant | 4-amino-1H-indole | 3.96 g | NC1=C2C=CNC2=CC=C1 | C8H8N2
reactant | 5-chloro-salicyclic acid | 5.16 g | C1=CC(=C(C=C1Cl)C(=O)O)O | C7H5ClO3
reactant | dicyclohexylcarbodiimide | 6.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylcarbodiimide | 0.62 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 5-chloro-3-hydroxy-N-(1H-indol-4-yl)-benzamide | 3.9 g | ClC=1C=C(C=C(C(=O)NC2=C3C=CNC3=CC=C2)C1)O | C15H11ClN2O2
